US06225480B1
A solution of ethyl (2,5,7,8-tetramethyl-2H-chromen-2-yl)acetate (20.00 g) in methanol (MeOH) (300 ml) was hydrogenated in the presence of 10% palladium on carbon (50% wet, 4.0 g) in one atmosphere of hydrogen at room temperature for 16 hours. The catalyst was filtered off and MeOH was removed under reduced pressure to give a residue. The residue was purified by chromatography over silica gel (AcOEt-hexane 3:97 as eluent) to give ethyl (2,5,7,8-tetramethylchroman-2-yl)acetate as an oil (18.72 g).

reactant | ethyl (2,5,7,8-tetramethyl-2H-chromen-2-yl)acetate | 20.00 g | CC1(OC2=C(C(=CC(=C2C=C1)C)C)C)CC(=O)OCC | C17H22O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on carbon | 4.0 g | [Pd] | Pd
product | ethyl (2,5,7,8-tetramethylchroman-2-yl)acetate | 18.72 g | CC1(OC2=C(C(=CC(=C2CC1)C)C)C)CC(=O)OCC | C17H24O3
